US03981886
2-Amino-5,7-bis-trifluoromethyl-1,3-bis[(2-bromo-4-fluorophenoxy)methyl]-1H-benzimidazol-3-ium chloride
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-5,7-bis-trifluoromethylbenzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 2-bromo-4-fluorophenyl chloromethyl ether, the title compound is obtained.

reactant | 2-amino-5,7-bis-trifluoromethylbenzimidazole | NC=1NC2=C(N1)C(=CC(=C2)C(F)(F)F)C(F)(F)F | C9H5F6N3
reactant | 2-bromo-4-fluorophenyl chloromethyl ether | ClCOC1=C(C=C(C=C1)F)Br | C7H5BrClFO
product | 2-Amino-5,7-bis-trifluoromethyl-1,3-bis[(2-bromo-4-fluorophenoxy)methyl]-1H-benzimidazol-3-ium chloride | [Cl-].NC1=[N+](C2=C(N1COC1=C(C=C(C=C1)F)Br)C(=CC(=C2)C(F)(F)F)C(F)(F)F)COC2=C(C=C(C=C2)F)Br | InChI=1S/C23H13Br2F8N3O2.ClH/c24-15-7-12(26)1-3-18(15)37-9-35-17-6-11(22(28,29)30)5-14(23(31,32)33)20(17)36(21(35)34)10-38-19-4-2-13(27)8-16(19)25;/h1-8,34H,9-10H2;1H
